US04921950
A flame dried 250 ml flask equipped with an addition funnel, magnetic stirrer and nitrogen inlet was charged with methyl 3-O-mesyl-5-O-(methoxycarbonyl)-D-xylofuranoside (5.84 g, 19.4 mmoles) (C. D. Anderson, L. Goodman and B. R. Baker, J. Am. Chem. Soc. 1958, 80, 5247) and anhydrous pyridine. The solution was cooled in an ice bath and 3-(trifluoromethyl)-benzoyl chloride (5.27 g, 25.3 mmoles) was added dropwise over 10 min. After the addition was complete the ice bath was removed and the reaction was continued 24 hours at ambient temperature. The mixture was poured into ice water (400 mL) and the aqueous solution extracted with ether (2×250 mL). The combined ether extracts were washed with 400 mL. of 1.2NHCl and 400 mL of 10% aqueous NaHCO3. The solvent was removed by rotary evaporation and the residual oil was purified by flash chromatography (3-inch diameter column containing 18 inches of flash silica gel). The column was eluted with 1:1/ethyl acetate:hexanes while collecting 200 mL fractions. Fractions 12-15 contained pure product and these fractions were concentrated in vacuo to afford 8.92 g (97.3%) of methyl 3-O-mesyl-5-O-(methoxycarbonyl)-2-O-(m-trifluoromethylbenzoyl)-D-xylofuranoside as a colourless oil containing an approximately equal mixture of α and β anomers. 1H NMR (CDCl3) δ3.09 and 3.19(s, 3H, OCH3), 3.34 and 3.37(s, 3H, SO2CH3), 3.79(s, 3H, OCO2CH3), 4.4-4.9(m, 3H, C-4H and C-5H), 5.1-5.6(m, 3H, C-1H, C-2H and C-3H) and 7.5-8.5 (m, 4H, ArH); TLC Rf =0.77 and 0.84, silica gel, CHCl3 :CH3OH/90:10.

reactant | methyl 3-O-mesyl-5-O-(methoxycarbonyl)-D-xylofuranoside | 19.4 mmoles, 5.84 g | S(=O)(=O)(C)O[C@@H]1[C@H](C(OC)O[C@@H]1COC(=O)OC)O | C9H16O9S
reactant | 3-(trifluoromethyl)-benzoyl chloride | 25.3 mmoles, 5.27 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 3-O-mesyl-5-O-(methoxycarbonyl)-2-O-(m-trifluoromethylbenzoyl)-D-xylofuranoside | 8.92 g, 97.3% | S(=O)(=O)(C)O[C@@H]1[C@H](C(OC)O[C@@H]1COC(=O)OC)OC(C1=CC(=CC=C1)C(F)(F)F)=O | C17H19F3O10S
